US05399559
(a) Preparation of 1-(3,4-dimethoxyphenyl)indole-2-carboxylic acid ethyl ester
4-Bromoveratrole (8.8 g, 40 mmol), indole-2-carboxylic acid ethyl ester (1.9 g, 10 mmol), potassium carbonate (1.9 g), copper- (I) bromide (o.2 g), pyridine (2 ml) and nitrobenzene (10 ml) were stirred at 140° C. for 14 hours. After cooling to room temperature, the reaction mixture was applied onto a silica gel flash chromatography column (silica gel: 140 g). The column was subsequently eluted with toluene (500 ml), toluene/acetone (95:5, 500 ml) and toluene/acetone (90:10, 500 ml). 1-(3,4-Dimethoxyphenyl)indole-2-carboxylic acid ethyl ester was eluted with toluene/acetone (90:10) and gave colorless crystals upon evaporation of the solvent. The crystals were triturated with diisopropyl ether, collected by vacuum filtration and dried in the air. Yield: 3.0 g. (92% of theoretical yield) M.pt.: 126°-128° C. Rf (toluene/acetone, 9:1)=0.53.

reactant | 4-Bromoveratrole | 40 mmol, 8.8 g | BrC=1C=C(C(=CC1)OC)OC | C8H9BrO2
reactant | indole-2-carboxylic acid ethyl ester | 10 mmol, 1.9 g | C(C)OC(=O)C=1NC2=CC=CC=C2C1 | C11H11NO2
reactant | potassium carbonate | 1.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | nitrobenzene | 10 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper- (I) bromide | 2 g | [Cu]Br
solvent | toluene acetone | C1(=CC=CC=C1)C.CC(=O)C
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 1-(3,4-dimethoxyphenyl)indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1)C1=CC(=C(C=C1)OC)OC | C19H19NO4
